************************************************************************
* auCdl Netlist:
* 
* Library Name:  PROJLib
* Top Cell Name: Selector
* View Name:     schematic
* Netlisted on:  Jan 16 20:33:50 2023
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: PROJLib
* Cell Name:    std_inverter
* View Name:    schematic
************************************************************************

.SUBCKT std_inverter GND VDD X Y
*.PININFO X:I Y:O GND:B VDD:B
MNM0 Y X GND GND n18 W=220n L=180n m=1
MPM0 Y X VDD VDD p18 W=440n L=180n m=1
.ENDS

************************************************************************
* Library Name: PROJLib
* Cell Name:    Selector
* View Name:    schematic
************************************************************************

.SUBCKT Selector A B GND S VDD Y
*.PININFO A:I B:I S:I Y:O GND:B VDD:B
MPM3 Y net18 net29 VDD p18 W=220n L=180n m=1
MPM2 Y S net30 VDD p18 W=220n L=180n m=1
MPM1 net29 net14 VDD VDD p18 W=220n L=180n m=1
MPM0 net30 net15 VDD VDD p18 W=220n L=180n m=1
MNM3 net21 net18 GND GND n18 W=220n L=180n m=1
MNM2 net21 net14 GND GND n18 W=220n L=180n m=1
MNM1 Y S net21 GND n18 W=220n L=180n m=1
MNM0 Y net15 net21 GND n18 W=220n L=180n m=1
XI2 GND VDD S net18 / std_inverter
XI1 GND VDD B net14 / std_inverter
XI0 GND VDD A net15 / std_inverter
.ENDS

